Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Zithromax Z-Pak / kiwi / shellfish derived / tamoxifen / 
tramadol / oxycodone
 
Attending: ___.
 
Chief Complaint:
Left splenic artery aneurysm
 
Major Surgical or Invasive Procedure:
Coiling of left splenic artery aneurysm sac and inflow branch
 
History of Present Illness:
Ms. ___ is a ___ patient Dr. ___ for 
somewhat urgent evaluation of splenic artery aneurysm.  This is 
found incidentally on ultrasound in ___ for workup of 
other issues. On recent MRA there was concern that there was a 
relatively rapid increase in size of the aneurysm.  Has no 
family history ofaneurysm no flank, left upper quadrant her 
shoulder pain.
 
Past Medical History:
Headaches
Polycystic kidney disease
Chondromalacia
Osteopenia
Osteoarthritis
Radiculopathy
Colon polyps
Basal cell carcinoma of the skin
Hypertension
DCIS
Diverticulosis
Choroidal nevus
Posterior vitreous detachment
Bilateral cataracts
Splenic artery aneurysm
Right shoulder replacement on ___
 
Social History:
___
Family History:
Paternal grandmother had breast cancer in her ___.  Her mother 
had lymphoma. Maternal grandmother had colon cancer.  Maternal 
grandfather had liver cancer her father had bladder cancer.  
Brother was diagnosed with metastatic cancer
based on bone lesions.  
 
Physical Exam:
Gen: NAD, A&Ox3
HEENT: Clear
Neck: Supple
CV: RRR
Pulm: Normal work of breathing on room air
Abd: Soft, mildly tender to palpation in the left upper 
quadrant, ND
Neuro: motor and sensory function in extremities grossly intact,
CN II-XII grossly intact
Extremities: Groin soft, no lower extremity edema
Vascular: Palpable pedal pulses bilaterally

 
Pertinent Results:
___ 11:24PM BLOOD WBC-8.9 RBC-3.43* Hgb-11.4 Hct-33.7* 
MCV-98 MCH-33.2* MCHC-33.8 RDW-12.6 RDWSD-45.6 Plt ___
___ 05:32AM BLOOD Creat-0.9 K-3.8
 
Brief Hospital Course:
Patient is a ___ y/o woman with L splenic artery aneurysm, who 
underwent a coiling of splenic artery aneurysm sac and inflow 
branch. She tolerated the procedure well with no intra-op 
complications. Post op HCT was stable. Ms. ___ was discharged 
from the hospital on POD1 in stable condition on a regular diet, 
tolerating PO meds, and with no new Sx. She was asked to follow 
up in vascular surgery clinic and obtain a CT scan in 1 month.  
 
Medications on Admission:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.  Aspirin 81 mg PO DAILY  
3.  Enalapril Maleate 10 mg PO DAILY  
4.  Hydrochlorothiazide 25 mg PO DAILY  

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.  Aspirin 81 mg PO DAILY  
3.  Enalapril Maleate 10 mg PO DAILY  
4.  Hydrochlorothiazide 25 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
splenic artery aneurysm 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___. Please see below 
for discharge instructions. 

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you. 

 
Followup Instructions:
___